US07582633B2
Step 8: (5-{5-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrazin-2-yl}-1H-tetrazol-1-yl)-acetic acid
To a solution of ethyl (5-{5-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrazin-2-yl}-1H-tetrazol-1-yl)acetate (Isomer A) from Step 7 (0.067 g, 0,132 mmol) in THF (2 mL) and MeOH (2 mL) was added 1 N NaOH (2 mL). After approximately 2 h, ethyl acetate and 1 N HCl were added to the reaction mixture. The organic phase was separated, dried over sodium sulfate and evaporated to give the title compound.

reactant | ethyl (5-{5-[4-(2-bromo-5-fluorophenoxy)piperidin-1-yl]pyrazin-2-yl}-1H-tetrazol-1-yl)acetate | BrC1=C(OC2CCN(CC2)C=2N=CC(=NC2)C2=NN=NN2CC(=O)OCC)C=C(C=C1)F | C20H21BrFN7O3
reactant | MeOH | 2 mL | CO | CH4O
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-{5-[4-(2-Bromo-5-fluorophenoxy)piperidin-1-yl]pyrazin-2-yl}-1H-tetrazol-1-yl)-acetic acid | BrC1=C(OC2CCN(CC2)C=2N=CC(=NC2)C2=NN=NN2CC(=O)O)C=C(C=C1)F | C18H17BrFN7O3
